US08309685B2
5-Oxo-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-pent-4-enyl ester (intermediate 17-2).
At 0° C., to a stirring solution of 5.5 g of 5-Oxo-pyrrolidine-2-carboxylic acid benzyl ester (25 mmol), 4 mL of triethylamine, 3.3 g of N,N-dimethylaminopyridine (27 mmol) in 40 mL of dichloromethane, was added 4.1 g of 4-pentenyl-1-yl chloroformate (27.6 mmol). The reaction mixture was then warmed to rt, and stirred over weekend. After concentration, the resulting residue was dissolved in ethyl ether 120 mL, washed with 30 mL of 1.0 N aq. HCl, brine subsequently, dried over anhydrous sodium sulfate. The organic solvent was evaporated under reduced pressure, and the residue was purified by flash chromatography on silica gel using heptane/EtOAc (v/v 1/1), giving 7.3 g of colorless oil as intermediate 17-2 (88%). LC-MS: m/z=331.2 (ES+).

reactant | 5-Oxo-pyrrolidine-2-carboxylic acid benzyl ester | 25 mmol, 5.5 g | C(C1=CC=CC=C1)OC(=O)C1NC(CC1)=O | C12H13NO3
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-Oxo-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-pent-4-enyl ester | 7.3 g | C(CCC=C)OC(=O)N1C(CCC1=O)C(=O)OCC1=CC=CC=C1 | C18H21NO5
